US04202974
To a suspension of 2.36 g (0.01 mole) of N-cyclopropylmethyl-N-(p-methoxyphenyl) thiourea in 30 ml of toluene were added 1.21 g (0.011 mole) of benzaldehyde and 0.84 g (0.005 mole) of 48% hydrobromic acid. The resulting mixture was heated under reflux for 6 hours using a water separator. After cooling, the reaction mixture was washed with dilute hydrochloric acid and then with water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was recrystallized from isopropyl alcohol to give 2.33 g (72%) of 1-cyclopropylmethyl-4-phenyl-6-methoxy-3,4-dihydro-2(1H)-quinazolinethione, m.p. 146°-147° C.

reactant | N-cyclopropylmethyl-N-(p-methoxyphenyl) thiourea | 0.01 mole, 2.36 g | C1(CC1)CN(C(=S)N)C1=CC=C(C=C1)OC | C12H16N2OS
reactant | benzaldehyde | 0.011 mole, 1.21 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrobromic acid | 0.005 mole, 0.84 g | Br | BrH
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopropylmethyl-4-phenyl-6-methoxy-3,4-dihydro-2(1H)-quinazolinethione | 2.33 g, 72% | C1(CC1)CN1C(NC(C2=CC(=CC=C12)OC)C1=CC=CC=C1)=S | C19H20N2OS
